US09212165B2
Step 1: Methyl 5-aminobicyclo[3.2.1]octane-1-carboxylate
To a solution of 5-(benzyloxycarbonylamino)bicyclo[3.2.1]octane-1-carboxylate (10 g, 31.5 mmol) in EtOH (50 mL) was added Pd/C (900 mg) under H2 atmosphere at room temperature and stirred overnight. The reaction mixture was filtered through Celite. The filtrate was concentrated under reduced pressure to afford 5.5 g (96%) of the crude title compound, methyl 5-aminobicyclo[3.2.1]octane-1-carboxylate, as a colorless oil. ESI-MS m/z: 184 (M+H)+.

reactant | 5-(benzyloxycarbonylamino)bicyclo[3.2.1]octane-1-carboxylate | 31.5 mmol, 10 g | C(C1=CC=CC=C1)OC(=O)NC12CCCC(CC1)(C2)C(=O)[O-]
reactant | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 900 mg | [Pd] | Pd
product | Methyl 5-aminobicyclo[3.2.1]octane-1-carboxylate | 5.5 g, 96% | NC12CCCC(CC1)(C2)C(=O)OC | C10H17NO2
